US07820659B2
Add sodium cyanoborohydride (3.6 g, 57.4 mmol) portion wise to a solution of 2-(4-benzyloxy-2,6-dichloro-benzyl)-2-(2-oxo-ethyl)-malonic acid diethyl ester (6.7 g, 14.4 mmol) (Preparation 10) and 4,5,6,7-tetrahydro-3H-benzoimidazol-5-ylamine dihydrochloride salt (6.0 g, 28.7 mmol) (Preparation 1) in 70 ml of Methanol. After 3 h, add 4 ml of acetic acid and warm to 60° C. for 16 h. Most of the Methanol is removed via rotovap. Quench the resulting mixture with saturated bicarbonate and extract with ethyl acetate. Dry extracts over sodium sulfate, concentrate, and purify by normal phase column chromatography (0-10% methanol in ethyl acetate) to afford 3-(4-Benzyloxy-2,6-dichloro-benzyl)-2-oxo-1-(4,5,6,7-tetrahydro-3H-benzoimidazol-5-yl)-pyrrolidine-3-carboxylic acid ethyl ester as a white solid (3 g).

reactant | sodium cyanoborohydride | 57.4 mmol, 3.6 g | C(#N)[BH3-].[Na+]
reactant | 2-(4-benzyloxy-2,6-dichloro-benzyl)-2-(2-oxo-ethyl)-malonic acid diethyl ester | 14.4 mmol, 6.7 g | C(C)OC(C(C(=O)OCC)(CC=O)CC1=C(C=C(C=C1Cl)OCC1=CC=CC=C1)Cl)=O | C23H24Cl2O6
reactant | 4,5,6,7-tetrahydro-3H-benzoimidazol-5-ylamine dihydrochloride salt | 28.7 mmol, 6.0 g | Cl.Cl.N1=CNC2=C1CCC(C2)N
reactant | acetic acid | 4 ml | C(C)(=O)O | C2H4O2
solvent | Methanol | 70 ml | CO | CH4O
product | 3-(4-Benzyloxy-2,6-dichloro-benzyl)-2-oxo-1-(4,5,6,7-tetrahydro-3H-benzoimidazol-5-yl)-pyrrolidine-3-carboxylic acid ethyl ester | 3 g | C(C)OC(=O)C1(C(N(CC1)C1CC2=C(N=CN2)CC1)=O)CC1=C(C=C(C=C1Cl)OCC1=CC=CC=C1)Cl | C28H29Cl2N3O4
